US05332821
70 ml of an aqueous solution of 3.64 g of acetic acid are added dropwise to a mixture, heated to the boiling point, of 14 g (59 mmol) of potassium (E)-α,β-epoxy-p--methoxycinnamate, 112 ml of toluene and 28 ml of water. After 5 minutes the mixture is cooled to room temperature. The organic phase is washed with water and then with aqueous potassium carbonate solution. The aqueous washings are extracted with toluene. The organic phase is dried azeotropically. The yield of p-methoxyphenylacetaldehyde in the solution obtained amounts to 92-94%.

reactant | acetic acid | 3.64 g | C(C)(=O)O | C2H4O2
reactant | potassium (E)-α,β-epoxy-p--methoxycinnamate | 59 mmol, 14 g | O/1\C(\C(=O)[O-])=C1/C1=CC=C(C=C1)OC.[K+]
reactant | toluene | 112 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 28 ml | O | H2O
product | p-methoxyphenylacetaldehyde | COC1=CC=C(C=C1)CC=O | C9H10O2
